US04829099
Bis-(4-nitrobenzenesulfonyl)-tetraethylene glycol (10 g, from Part A) was dissolved in distilled ethyl acetate (200 ml) and hydrogenated over palladium on carbon (10%, 0.5 g) at 40 p.s.i. in a Parr hydrogenation apparatus. The solution was filtered and evaporated under reduced pressure to give bis-(4-aminobenzenesulfonyl)-tetraethylene glycol in quantitative yield as a thick, yellow oil which was homogeneous by TLC.

reactant | Bis-(4-nitrobenzenesulfonyl)-tetraethylene glycol | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)C(COCCOCCOCCO)(S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])O | C20H24N2O13S2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | bis-(4-aminobenzenesulfonyl)-tetraethylene glycol | quantitative yield | NC1=CC=C(C=C1)S(=O)(=O)C(COCCOCCOCCO)(S(=O)(=O)C1=CC=C(C=C1)N)O | C20H28N2O9S2
